US08389509B2
A mixture of 4-phenyl-5-(trifluoromethyl)thiophene-2-carboxylic acid (408 mg, 1.50 mmol), (Z)-tert-butyl 1-(4-(N′-hydroxycarbamimidoyl)benzyl)azetidine-3-carboxylate (Int.1, 458 mg, 1.50 mmol), HOBT (345 mg, 2.250 mmol), Hunig's Base (1.05 mL, 6.00 mmol), and EDC (431 mg, 2.25 mmol) in N,N-dimethylformamide (7.5 mL) was stirred at room temperature for 18 h. The reaction mixture was partitioned between ethyl acetate (120 mL) and a saturated aqueous solution of sodium bicarbonate (60 mL). The organic layer was washed with water (2×120 mL), washed with brine (120 mL), and dried over anhydrous magnesium sulfate. Concentration under reduced pressure afforded (Z)-tert-butyl 1-(4-(N′-(4-phenyl-5-(trifluoromethyl)thiophene-2-carbonyloxy)carbamimidoyl)benzyl)azetidine-3-carboxylate (744 mg, 1.33 mmol, 89% yield) as a light peach colored solid that was used in the next step without further purification. HPLC: ret. time=3.26 minutes (YMC Combi S-5 4.6×50 mm ODS column) eluting with 10-90% aqueous methanol+0.2% phosphoric acid over a 4 minute gradient. MS: (M+H)=560.25.

reactant | 4-phenyl-5-(trifluoromethyl)thiophene-2-carboxylic acid | 1.50 mmol, 408 mg | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C(=O)O | C12H7F3O2S
reactant | (Z)-tert-butyl 1-(4-(N′-hydroxycarbamimidoyl)benzyl)azetidine-3-carboxylate | 1.50 mmol, 458 mg | O\N=C(/N)\C1=CC=C(CN2CC(C2)C(=O)OC(C)(C)C)C=C1 | C16H23N3O3
reactant | HOBT | 2.250 mmol, 345 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Hunig's Base | 6.00 mmol, 1.05 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 2.25 mmol, 431 mg
solvent | N,N-dimethylformamide | 7.5 mL | CN(C=O)C | C3H7NO
product | (Z)-tert-butyl 1-(4-(N′-(4-phenyl-5-(trifluoromethyl)thiophene-2-carbonyloxy)carbamimidoyl)benzyl)azetidine-3-carboxylate | 1.33 mmol, 744 mg, 89% yield | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C(=O)O\N=C(/N)\C1=CC=C(CN2CC(C2)C(=O)OC(C)(C)C)C=C1 | C28H28F3N3O4S
